US06297267B1
A solution of ethyl (S)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenoxy}acetate (800 mg) and m-chloroperbenzoic acid (600 mg) in dichloromethane (20 ml) was stirred for 2 hours at room temperature. The mixture was diluted with EtOAc and washed with water and brine. Then, it was dried over MgSO4 and evaporated in vacuo. The residue was purified by chromatography on silica gel to give ethyl {3-{[(1S)-2-(4,5-diphenyloxazol-2-yl) -2,3-epoxy-1-cyclohexyl]methyl}phenoxy}-acetate (400 mg).

reactant | ethyl (S)-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenoxy}acetate | 800 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C32H31NO4
reactant | m-chloroperbenzoic acid | 600 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl {3-{[(1S)-2-(4,5-diphenyloxazol-2-yl) -2,3-epoxy-1-cyclohexyl]methyl}phenoxy}-acetate | 400 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C12[C@@H](CCCC1O2)CC=2C=C(OCC(=O)OCC)C=CC2 | C32H31NO5
